US06949542B2
4-[3-(2-Hydroxymethyl-6-methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[2-(3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M302) (0.46 g, 0.73 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (210 mg, 67%).

reactant | (RS)-[2-(3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.73 mmol, 0.46 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)COC1OCCCC1)C)=O)=O | C33H36F3N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-Hydroxymethyl-6-methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | OCC1=NC(=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C(F)(F)F)C | C23H18F3N3O2
